US08455521B2
Crude 2-((1S,2R)-1-cyclopentyl-1-hydroxy-3-(methylamino)propan-2-yl)isoindoline-1,3-dione (≦54.7 mmol) was dissolved in THF (20 mL). A solution of K2CO3 (8.3 g, 60 mmol) in water (20 mL) was added followed by Boc2O (6.1 g, 27 mmol). The two-phase system was stirred for 1 h at rt. The mixture was extracted with ether, washed with sat'd aq NaHCO3 and brine, dried, decanted, and stripped. Chromatography on silica gel gave 2-((1S,2R)-1-cyclopentyl-1-hydroxy-3-(N-methyl-N-(t-butoxycarbonyl)amino)propan-2-yl)isoindoline-1,3-dione (1.25 g, 65%) of a highly crystalline solid. LC-MS (3 min) tR=1.8 min, m/z=403 (M+1).

reactant | 2-((1S,2R)-1-cyclopentyl-1-hydroxy-3-(methylamino)propan-2-yl)isoindoline-1,3-dione | ≦54.7 mmol | C1(CCCC1)[C@@H]([C@@H](CNC)N1C(C2=CC=CC=C2C1=O)=O)O | C17H22N2O3
reactant | K2CO3 | 60 mmol, 8.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Boc2O | 27 mmol, 6.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2-((1S,2R)-1-cyclopentyl-1-hydroxy-3-(N-methyl-N-(t-butoxycarbonyl)amino)propan-2-yl)isoindoline-1,3-dione | 1.25 g, 65% | C1(CCCC1)[C@@H]([C@@H](CN(C(=O)OC(C)(C)C)C)N1C(C2=CC=CC=C2C1=O)=O)O | C22H30N2O5
